US06291452B1
To a suspension of (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (3.22 g) in methylene chloride (50 ml) was added m-chloroperbenzoic acid (2.50 g, 1.5 eq. mol) portionwise under stirring at ice-bath cooling. The mixture was stirred for 3 days at ambient temperatures. From the reaction mixture methylene chloride was removed in vacuo and to the residue was added an aqueous solution of sodium bicarbonate and stirred for several minutes. The mixture was extracted with ethyl acetate twice and the combined extract was washed with aqueous sodium bicarbonate, water twice and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo to afford an amorphous mass, which was triturated in methanol and collected by filtration to give (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide (2.59 g) as a crystalline powder. From the mother liquid, the second crop (0.25 g) of the desired powder was prepared by crystallization in a mixture of methanol and diisopropyl ether (3:1).

reactant | (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 3.22 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C)C=CC=C2C)=O | C19H19N3O3
reactant | m-chloroperbenzoic acid | 2.50 g, 1.5 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide | 2.59 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=[N+]1[O-])C)C=CC=C2C)=O | C19H19N3O4
